### PR TITLE
[Merged by Bors] - feat(Algebra/Group): Add commute_iff_eq and a few lemmas on conjugation

### PR DESCRIPTION
**Pull request by adri326**
This introduces some helpful, small lemmas around conjugation in groups, as well as `commute_iff_eq`,
which removes the need to use `show` or `unfold` to get an expression of the form `a * b = b * a` to prove.

---

- `Commute.conj_iff` is strictly decreasing (turning things of the form `Commute (f * a * f⁻¹) (f * b * f⁻¹)` to `Commute a b`), so it has been marked as `simp`
- the same reasoning was applied to `conj_mul_eq_one_iff`, which turns expressions of the form `f * g * f⁻¹ = 1` into `g = 1`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -768,6 +768,15 @@ theorem inv_mul_eq_one : a⁻¹ * b = 1 ↔ a = b := by rw [mul_eq_one_iff_eq_in
...
 #align neg_add_eq_zero neg_add_eq_zero
 
+@[to_additive (attr := simp)]
+theorem conj_mul_eq_one_iff (f g : G) : f * g * f⁻¹ = 1 ↔ g = 1 := by
+  rw [mul_inv_eq_iff_eq_mul, one_mul]
+  conv => {
+    lhs; rhs
+    rw [← mul_one f]
+  }
+  rw [mul_left_cancel_iff]
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Basic.lean:778]:
```suggestion
  rw [mul_inv_eq_one, mul_right_eq_self]
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -768,6 +768,15 @@ theorem inv_mul_eq_one : a⁻¹ * b = 1 ↔ a = b := by rw [mul_eq_one_iff_eq_in
 #align inv_mul_eq_one inv_mul_eq_one
 #align neg_add_eq_zero neg_add_eq_zero
 
+@[to_additive (attr := simp)]
+theorem conj_mul_eq_one_iff (f g : G) : f * g * f⁻¹ = 1 ↔ g = 1 := by
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Basic.lean:772]: You should use the existing variables.

File: Mathlib/Algebra/Group/Commute/Basic.lean [hunk 3]
```diff
@@ -91,5 +91,19 @@ lemma inv_mul_cancel_assoc (h : Commute a b) : a⁻¹ * (b * a) = b := by
...
+  repeat rw [← mul_assoc]
+  simp only [inv_mul_cancel_right]
+  rw [mul_assoc _ a, comm, ← mul_assoc h]
+
+@[to_additive (attr := simp)]
+protected theorem conj_iff (h : G) : Commute (h * a * h⁻¹) (h * b * h⁻¹) ↔ Commute a b := by
+  refine ⟨fun comm => ?comm, fun comm => comm.conj h⟩
+  have res := comm.conj h⁻¹
+  simp only [← mul_assoc, mul_left_inv, one_mul, inv_inv, inv_mul_cancel_right] at res
+  exact res
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Commute/Basic.lean:106]:
```suggestion
@[to_additive (attr := simp)]
protected theorem conj_iff (h : G) : Commute (h * a * h⁻¹) (h * b * h⁻¹) ↔ Commute a b := by
  simp_rw [commute_iff_eq, mul_assoc, inv_mul_cancel_left, mul_right_inj, ← mul_assoc, mul_left_inj]

@[to_additive]
protected theorem conj (comm : Commute a b) (h : G) : Commute (h * a * h⁻¹) (h * b * h⁻¹) :=
  (Commute.conj_iff h).mpr comm
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 4]
```diff
@@ -768,6 +768,10 @@ theorem inv_mul_eq_one : a⁻¹ * b = 1 ↔ a = b := by rw [mul_eq_one_iff_eq_in
 #align inv_mul_eq_one inv_mul_eq_one
 #align neg_add_eq_zero neg_add_eq_zero
 
+@[to_additive (attr := simp)]
+theorem conj_mul_eq_one_iff : a * b * a⁻¹ = 1 ↔ b = 1 := by
```
Comment (urkud) [inline Mathlib/Algebra/Group/Basic.lean:772]:
```suggestion
theorem conj_eq_one_iff : a * b * a⁻¹ = 1 ↔ b = 1 := by
```

File: Mathlib/Algebra/Group/Commute/Basic.lean [hunk 5]
```diff
@@ -91,5 +91,14 @@ lemma inv_mul_cancel_assoc (h : Commute a b) : a⁻¹ * (b * a) = b := by
 #align commute.inv_mul_cancel_assoc Commute.inv_mul_cancel_assoc
 #align add_commute.neg_add_cancel_assoc AddCommute.neg_add_cancel_assoc
 
+@[to_additive (attr := simp)]
+protected theorem conj_iff (h : G) : Commute (h * a * h⁻¹) (h * b * h⁻¹) ↔ Commute a b := by
```
Comment (urkud) [inline Mathlib/Algebra/Group/Commute/Basic.lean:95]: Please generalize to `SemiconjBy` (conjugating all 3 terms), then reuse here.

**Comment by adri326** [comment]
I don't see how I could golf `SemiconjBy.conj_iff` any further, given how high up we are in the import tree

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
